US04202990
The reaction was performed for three hours by adding 0.24 g (0.001 mole) of calcium acetylacetonate in the apparatus of Example 1 instead of the zirconium acetylacetonate. An azeotropic mixture of methyl methacrylate and methanol was removed at a reflux ratio of 2 to 10:1. The reaction showed a 99.5% conversion of n-butanol and a 99.0% yield of n-butyl methacrylate. When this reaction solution was directly distilled, 139 g of a fraction of 93°-94° C. under 80 mmHg were obtained. This fraction was found by gas chromatography to be n-butyl methacrylate at a yield of 97.8%.

reactant | calcium acetylacetonate | 0.001 mole, 0.24 g | CC(=CC(=O)C)[O-].CC(=CC(=O)C)[O-].[Ca+2]
reactant | methyl methacrylate | C(C(=C)C)(=O)OC | C5H8O2
catalyst | zirconium acetylacetonate | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Zr+4]
solvent | methanol | CO | CH4O
product | n-butyl methacrylate | 99.0% yield | C(C(=C)C)(=O)OCCCC | C8H14O2
